US07084143B2
A solution of 2.0 g of 4-carboxyindole and 8.1 g of 2-chloro-1-methylpyridinium iodide in 60 ml of N-methylpyrrolidone (NMP) is treated with a solution of 2.36 g of 4-phenethylpiperazine and 8.2 g of ethyldi-isopropylamine (EDIPA) in 20 ml of NMP and subsequently stirred at room temperature for 3 hours. The mixture is worked up in the customary manner and the crude product is obtained. This is dissolved in acetone and the hydrochloride is precipitated using aqueous hydrochloric acid. After drying, 4.59 g of (1H-indol-4-yl)-(4-phenethylpiperazin-1-yl)methanone, hydrochloride, m.p. 289.3°, is obtained.

reactant | 4-carboxyindole | 2.0 g | C(=O)(O)C1=C2C=CNC2=CC=C1 | C9H7NO2
reactant | 2-chloro-1-methylpyridinium iodide | 8.1 g | [I-].ClC1=[N+](C=CC=C1)C
reactant | 4-phenethylpiperazine | 2.36 g | C(CC1=CC=CC=C1)N1CCNCC1 | C12H18N2
reactant | ethyldi-isopropylamine | 8.2 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N-methylpyrrolidone | 60 ml | CN1C(CCC1)=O | C5H9NO
solvent | NMP | 20 ml | CN1C(CCC1)=O | C5H9NO
solvent | acetone | CC(=O)C | C3H6O
product | (1H-indol-4-yl)-(4-phenethylpiperazin-1-yl)methanone, hydrochloride | 4.59 g | Cl.N1C=CC2=C(C=CC=C12)C(=O)N1CCN(CC1)CCC1=CC=CC=C1 | InChI=1S/C21H23N3O.ClH/c25-21(19-7-4-8-20-18(19)9-11-22-20)24-15-13-23(14-16-24)12-10-17-5-2-1-3-6-17;/h1-9,11,22H,10,12-16H2;1H
